US09212196B2
Ethyl 2-(2,6 dichloro-4-formyl-6-methoxyphenoxy)acetate
The compound was prepared according to general procedure E with 3,5-dichloro-4-hydroxybenzaldehyde (1.6 mmol) in dry acetone (15 ml), anhydrous K2CO3 (2.1 mmol), and ethylbromoacetate (2.4 mmol) at reflux for 1 h. Ethanol was added and evaporated by azeotropic distillation with ethylbromoacetate. 354 mg of crude product were obtained and purified by silica gel chromatography (eluent dichloromethane). 264 mg of purified compound were obtained (60% yield). 1H NMR (500 MHz, CD3COCD3): δ 1.32 (t, J=7.2 Hz, 3H), 4.30 (q, J=7.2 Hz, 2H), 4.74 (s, 2H), 7.82 (s, 2H), 9.67 (s, 1H) 13C NMR (126 MHz, CD3COCD3): δ 15.0, 62.3, 70.8, 131.2, 131.4, 135.4, 156.4, 168.4, 190.5

reactant | 3,5-dichloro-4-hydroxybenzaldehyde | 1.6 mmol | ClC=1C=C(C=O)C=C(C1O)Cl | C7H4Cl2O2
reactant | K2CO3 | 2.1 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylbromoacetate | 2.4 mmol | C(C)OC(CBr)=O | C4H7BrO2
reactant | Ethanol | C(C)O | C2H6O
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | Ethyl 2-(2,6 dichloro-4-formyl-6-methoxyphenoxy)acetate | 264 mg, 60% yield | ClC=1C(OCC(=O)OCC)C(C=C(C1)C=O)(OC)Cl | C12H14Cl2O5
